US09226922B2
Into a 50-L reactor was placed ethanol (22 L), sodium hydroxide (800 g, 20.00 mol), and 6-chloro-4-hydrazinylnicotinate (2700 g, 13.39 mol). The resulting solution was stirred for 2 h at room temperature. The pH value of the solution was adjusted to 7 with HCl. The solid was filtered out. The filtrate was concentrated in vacuo to give 6-chloro-1H-pyrazolo[4,3-c]pyridin-3(2H)-one, which was carried onto the next step without further purification. MS ESI calc'd. for C6H4ClN3O [M+1]+ 170. found 170.

reactant | sodium hydroxide | 20.00 mol, 800 g | [OH-].[Na+]
reactant | 6-chloro-4-hydrazinylnicotinate | 13.39 mol, 2700 g | ClC1=NC=C(C(=O)[O-])C(=C1)NN
reactant | HCl | Cl | ClH
solvent | ethanol | 22 L | C(C)O | C2H6O
product | 6-chloro-1H-pyrazolo[4,3-c]pyridin-3(2H)-one | ClC1=CC2=C(C=N1)C(NN2)=O | C6H4ClN3O
